US08211908B2
To a suspension of 77 mg of sodium hydride in 2 mL of N,N-dimethylformamide, 0.13 g of imidazole was added, and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture, 0.20 g of 7-bromo-1-((1,3-dioxolan-2-yl)methyl)-1,5-naphthyridin-2(1H)-one was added dividedly, and then 18 mg of copper (II) oxide was added thereto. The reaction mixture was stirred at 135 to 140° C. for 30 minutes. The reaction mixture was cooled to room temperature, then chloroform and water were added thereto, the organic layer was separated, and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. To the resultant residue, a mixed solvent of diethyl ether: ethyl:acetate (3:1) was added, and the solid was filtered off to obtain 0.12 g of 1-((1,3-dioxolan-2-yl)methyl)-7-(1H-imidazol-1-yl)-1,5-naphthyridin-2(1H)-one as a yellow solid.

reactant | sodium hydride | 77 mg | [H-].[Na+]
reactant | imidazole | 0.13 g | N1C=NC=C1 | C3H4N2
reactant | 7-bromo-1-((1,3-dioxolan-2-yl)methyl)-1,5-naphthyridin-2(1H)-one | 0.20 g | BrC1=CN=C2C=CC(N(C2=C1)CC1OCCO1)=O | C12H11BrN2O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | copper (II) oxide | 18 mg | [Cu]=O
solvent | water | O | H2O
product | 1-((1,3-dioxolan-2-yl)methyl)-7-(1H-imidazol-1-yl)-1,5-naphthyridin-2(1H)-one | 0.12 g | O1C(OCC1)CN1C(C=CC2=NC=C(C=C12)N1C=NC=C1)=O | C15H14N4O3
